US07345178B2
6-Methyl-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine (2.9 g, 10.7 mmol), N-bromosuccinimide (NBS, 1.91 g, 10.7 mmol), CCl4 (200 mL) and benzoyl peroxide (0.021 g) were added into a three-neck flask (500 mL) under argon. The resulting yellow mixture was refluxed for 2 h. Additional NBS (1.91 g) and benzoyl peroxide (0.021 g) were added. Two hours later, more NBS (0.95 g) and benzoyl peroxide (0.021 g) were added and the mixture was continually refluxed for 3 h. The mixture was then cooled to room temperature. The solution was transferred into another flask and concentrated in vacuo to afford crude 6-(bromomethyl)-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine (4.0 g), which was directly used for next step.

reactant | 6-Methyl-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine | 10.7 mmol, 2.9 g | CC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)[N+](=O)[O-] | C13H9N3O2S
reactant | N-bromosuccinimide | 10.7 mmol, 1.91 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NBS | 1.91 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NBS | 0.95 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.021 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | benzoyl peroxide | 0.021 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | benzoyl peroxide | 0.021 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-(bromomethyl)-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine | 4.0 g | BrCC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)[N+](=O)[O-] | C13H8BrN3O2S
